US09403839B2
To a solution of 1-(3-pyridyl)ethanone (15.0 g, 124 mmol) in DMF (100 mL) at 0° C. was added sodium hydride (5.9 g, 149 mmol). The reaction mixture was then stirred at room temperature for 10 minutes. After cooling to 0° C., methyl acetate (11.8 mL, 149 mmol) was slowly added dropwise. The reaction mixture was allowed to slowly warm to room temperature and stirred overnight. The reaction mixture was quenched with the addition of saturated ammonium chloride (100 mL) and acidified to pH 5 with the addition of 1 N HCl. The mixture was then extracted with ethyl acetate (2×75 mL). The organic layers were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure. The 16 grams of crude product were filtered through a plug of silica gel. The filtrate was concentrated under reduced pressure. The residue was taken up in a 1:9 solution of ethyl acetate/hexane (300 mL) at 65° C. The resulting solution was slowly allowed to cool to warm temperature while stirring. The precipitate was collected by vacuum filtration to provide 1-(3-pyridyl)butane-1,3-dione (7.7 g) as a yellow solid.

reactant | 1-(3-pyridyl)ethanone | 124 mmol, 15.0 g | N1=CC(=CC=C1)C(C)=O | C7H7NO
reactant | sodium hydride | 149 mmol, 5.9 g | [H-].[Na+]
reactant | methyl acetate | 149 mmol, 11.8 mL | C(C)(=O)OC | C3H6O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(3-pyridyl)butane-1,3-dione | 7.7 g | N1=CC(=CC=C1)C(CC(C)=O)=O | C9H9NO2
